US08487108B2
Step 1. (R)-tert-butyl 3-((R)-(2-(tert-butyldimethylsilyloxy)ethoxy)(3-chlorophenyl)methyl)piperidine-1-carboxylate
To a mixture of (R)-tert-butyl 3-((R)-(3-chlorophenyl)(hydroxy)methyl)piperidine-1-carboxylate (0.1964 g, 0.60 mmol, 1.0 equiv) and 60% NaH in oil (0.753 g, 18.8 mmol, 31 equiv) in THF (15 mL) was added (2-bromoethoxy)-tert-butyldimethylsilane (2.042 g, 8.5 mmol, 14 equiv). The resulting mixture was heated at 80° C. for 19 h and then quenched with water, extracted with EtOAc and dried over Na2SO4. After the solvent was removed, the crude product was used in the next step without further purification.

reactant | (R)-tert-butyl 3-((R)-(3-chlorophenyl)(hydroxy)methyl)piperidine-1-carboxylate | 0.60 mmol, 0.1964 g, 1.0 equiv | ClC=1C=C(C=CC1)[C@@H]([C@H]1CN(CCC1)C(=O)OC(C)(C)C)O | C17H24ClNO3
reactant | NaH | [H-].[Na+]
reactant | (2-bromoethoxy)-tert-butyldimethylsilane | 8.5 mmol, 2.042 g, 14 equiv | BrCCO[Si](C)(C)C(C)(C)C | C8H19BrOSi
solvent | THF | 15 mL | C1CCOC1 | C4H8O
product | (R)-tert-butyl 3-((R)-(2-(tert-butyldimethylsilyloxy)ethoxy)(3-chlorophenyl)methyl)piperidine-1-carboxylate | [Si](C)(C)(C(C)(C)C)OCCO[C@H]([C@H]1CN(CCC1)C(=O)OC(C)(C)C)C1=CC(=CC=C1)Cl | C25H42ClNO4Si
